US06544990B2
N-(4-chlorobenzyl)-8-(4-hydroxypent-1-ynyl)-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide
A flame-dried flask under an atmosphere of nitrogen gas containing N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide (Preparation # 15) (0.55 g) is treated with copper (I) iodide (0.02 g) and dichlorobis(triphenylphosphine)palladium (II) (0.07 g). The solids are treated with dimethylformamide (DMF) (6 mL) and diethylamine (6 mL). The resulting suspension is treated with 4-pentyn-2-ol (0.2 mL) and stirred for 4 days. The reaction is concentrated under reduced pressure and the residue is partitioned between ethyl acetate and phosphate buffer (pH=7). The aqueous phase is extracted with dichloromethane:ethyl acetate. The combined organic layers are washed with phosphate buffer (pH=7), brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue is flash column chromatographed on silica eluting with 5% to 11% methanol in ethyl acetate. The product-containing fractions are combined and concentrated under reduced pressure. The resulting material is crystallized from acetonitrile:methanol and then re-crystallized from toluene to afford the title compound (0.33 g) as off-white solid.

reactant | N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide | 0.55 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)I)C)C=C1 | C23H23ClIN3O3
reactant | diethylamine | 6 mL | C(C)NCC | C4H11N
reactant | 4-pentyn-2-ol | 0.2 mL | CC(CC#C)O | C5H8O
catalyst | copper (I) iodide | 0.02 g | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.07 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | N-(4-chlorobenzyl)-8-(4-hydroxypent-1-ynyl)-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide | 0.33 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)C#CCC(C)O)C)C=C1 | C28H30ClN3O4
